US07750154B2
N-Cyclopropyl-4-methyl-3-[6-{[(2R)-1-methylpyrrolidin-2-yl]methoxy}-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12304522)
N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(2R)-pyrrolidin-2-ylmethoxy]quinazolin-3(4H)-yl]benzamide (0.15 g) and 38% aqueous formaldehyde (0.284 ml) were stirred in formic acid (3 ml) at 90° C. for 4 hours and then concentrated. The residue was partitioned between ethyl acetate and saturated aqueous NaHCO3 solution. The organic layer was washed with brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 10% methanol/ethyl acetate followed by 10% methanol/ethyl acetate+1% aqueous ammonia solution to give the title compound (0.128 g) as a pale yellow foam solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.70 (m, 2H), 1.70 (m, 3H), 1.99 (m, 1H), 2.14 (s, 3H), 2.21 (m, 1H), 2.40 (s, 3H), 2.61 (m, 1H), 2.85 (m, 1H), 2.96 (m, 1H), 3.99 (m, 1H), 4.10 (m, 1H), 7.52 (m, 2H), 7.60 (s, 1H), 7.73 (d, 1M), 7.85 (s, 1H), 7.91 (d, 1H), 8.20 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 433.

reactant | N-Cyclopropyl-4-methyl-3-[4-oxo-6-[(2R)-pyrrolidin-2-ylmethoxy]quinazolin-3(4H)-yl]benzamide | 0.15 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC[C@@H]1NCCC1)=O | C24H26N4O3
reactant | formaldehyde | 0.284 ml | C=O | CH2O
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | N-Cyclopropyl-4-methyl-3-[6-{[(2R)-1-methylpyrrolidin-2-yl]methoxy}-4-oxoquinazolin-3(4H)-yl]benzamide | 0.128 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC[C@@H]1N(CCC1)C)=O | C25H28N4O3
